* Crossbar one bit

simulator lang=spice

.include '45nm_LP.pm'
.include 'MTJT.spi'


*pra escrever precisa de uma ddp de 0.9 e pra ler -0.36
.param cap = 55.5f

.param Vb = 1.6
.param Vnb = 0
.param Vhb = Vb/2

.param Vread = 1.6

.param Tpwl = 0.7n
.param Tpbl = 0.7n
.param TpRead = 1.7n
.param TpWrite= 2.7n

Vwl1 WL1 Gnd PWL 0 'Vhb'
Vwl2 WL2 Gnd PWL 0 'Vhb' '(Tpwl-1p)' 'Vhb' 'Tpwl' 'Vb' '(Tpwl+0.3n-1p)' 'Vb' '(Tpwl+0.3n)' 'Vhb' 'TpRead' 'Vhb' '(TpRead+1p)' 'Vread' '(TpRead+0.3n-1p)' 'Vread' '(TpRead+0.3n)' 'Vhb' '(TpWrite-1p)' 'Vhb' '(TpWrite)' 'Vnb' '(TpWrite+0.5n-1p)' 'Vnb' '(TpWrite+0.5n)' 'Vhb' '(3n+Tpwl)' 'Vhb' '(3n+Tpwl+1p)' 'Vread' '(3n+Tpwl+0.3n-1p)' 'Vread' '(3n+Tpwl+0.3n)' 'Vhb'
Vwl3 WL3 Gnd PWL 0 'Vhb' 

Vbl1 BL1 Gnd PWL 0 'Vhb' 
Vbl2 BL2 Gnd PWL 0 'Vhb' '(Tpbl-1p)' 'Vhb' 'Tpbl' 'Vnb' '(Tpbl+0.3n-1p)' 'Vnb' '(Tpbl+0.3n)' 'Vhb' '(TpWrite-1p)' 'Vhb' '(TpWrite)' 'Vb' '(TpWrite+0.5n-1p)' 'Vb' '(TpWrite+0.5n)' 'Vhb'
Vbl3 BL3 Gnd PWL 0 'Vhb'

Vgnd Gnd 0 0

* Bitcell
Vtest1 WL1 NM1 0
X1 NM1 BL1 MTJT

Vtest2 WL1 NM2 0
X2 NM2 BL2 MTJT

Vtest3 WL1 NM3 0
X3 NM3 BL3 MTJT

Vtest4 WL2 NM4 0
X4 NM4 BL1 MTJT

Vtest5 WL2 NM5 0
X5 NM5 BL2 MTJT

Vtest6 WL2 NM6 0
X6 NM6 BL3 MTJT

Vtest7 WL3 NM7 0
X7 NM7 BL1 MTJT

Vtest8 WL3 NM8 0
X8 NM8 BL2 MTJT

Vtest9 WL3 NM9 0
X9 NM9 BL3 MTJT

*Bitlines Capacitance
Cbl1 BL1 Gnd 'cap'
Cbl2 BL2 Gnd 'cap'
Cbl3 BL3 Gnd 'cap'

.TRAN 10p 5n

.option rawfmt="psfbin"
