* Crossbar one bit

simulator lang=spice

.include '45nm_LP.pm'
.include 'MTJT.spi'
.include 'TRANSGATE.spi'


.param cap = 5f

.param Vvdd = 1.6

.param Vgnd = 0

.param Vread = 1

.param TpWrite = 0.9n
.param TpRead = 0.3n
.param TpPulse = 0.9n

* Wordlines controller
Vwl1 WL1T Gnd PWL 0 'Vgnd' 'TpPulse-1p' 'Vgnd' 'TpPulse' 'Vvdd' '5n' 'Vvdd' '5n+1p' 'Vgnd' '8n+TpRead-1p' 'Vgnd' '8n+TpRead' 'Vread' '9n-1p' 'Vread' '9n' 'Vgnd'

*Bitlines controller
Vbl1 BL1T Gnd PWL 0 'Vgnd' '5n+TpWrite-1p' 'Vgnd' '5n+TpWrite' 'Vvdd' '7n-1p' 'Vvdd' '7n' 'Vgnd'

Vbl1en ENBl1 Gnd PWL 0 1

Vtest BL1 BL1U 0

Vdd Vdd Gnd 'Vvdd' 

* Bitcell
*R1 WL1 BL1 1k
X1 WL1 BL1 MTJT
*X2 WL1 BL2 MTJT
*X3 WL2 BL1 MTJT
*X4 WL2 BL2 MTJT

*Tristate

X5 WL1T WL1 ENBl1 Vdd Gnd TG
*X6 WL2T WL2 ENBl1 Vdd Gnd TI
X7 BL1T BL1U ENBl1 Vdd Gnd TG
*X8 BL2T BL2 ENBl1 Vdd Gnd TI

*Bitlines Capacitance
Cbl1 BL1 Gnd 'cap'
*Cbl2 BL2 Gnd 'cap'


.TRAN 1p 10n

.option rawfmt="psfbin"
